US04879301
Preparation of 5-chloro-3[4-(N-ethylcarbamoyloxy)piperidinocarbonylmethyl]benzothiazolin-2-one:
5-Chloro-3-(4-hydroxypiperidinocarbonylmethyl)benzothiazolin-2-one (3.2 g) was dissolved in dry pyridine (15 ml) and the solution was cooled. After ethyl isocyanate (0.9 g) was dropwise added to the solution, the resultant was stirred for 10 hours at 50° C. Pyridine was evaporated off under vacuum from the reaction mixture and the residue was recrystallized from ethanol to yield the title compound as colorless crystals (3.0 g). mp 210°-211° C.

reactant | 5-Chloro-3-(4-hydroxypiperidinocarbonylmethyl)benzothiazolin-2-one | 3.2 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCC(CC2)O)C1 | C14H15ClN2O3S
reactant | ethyl isocyanate | 0.9 g | C(C)N=C=O | C3H5NO
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5-chloro-3[4-(N-ethylcarbamoyloxy)piperidinocarbonylmethyl]benzothiazolin-2-one | 3.0 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCC(CC2)OC(NCC)=O)C1 | C17H20ClN3O4S
